US06869949B2
11. (7R,8R,9R)-7,8-Dihydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
6 g (20.5 mmol) of (8R,9R)-8-hydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one are suspended in 30 ml of 2-propanol and 2 ml of 0.3% strength methanolic sodium methoxide solution. 0.4 g (10.2 mmol) of sodium borohydride, dissolved in 5 ml of 0.3% methanolic sodium methoxide solution, is added dropwise at 10° C. in the course of 10 minutes. The reaction mixture (suspension) is stirred overnight at room temperature (a solution forms in the course of this). The reaction solution is added to 90 ml of water and extracted three times with 30 ml of ethyl acetate each time. The combined ethyl acetate phases are washed once with water and concentrated. The residue is chromatographed on silica gel (ethyl acetate/2-propanol 95:5). The product fractions are concentrated and crystallized using diethyl ether. The crystals are filtered off with suction and dried at 50° C. in a high vacuum. 4.3 g (71% of theory) of the title compound of m.p. 119° C. (decomposition) are obtained.

reactant | (8R,9R)-8-hydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 20.5 mmol, 6 g | O[C@@H]1[C@H](NC=2C=3N(C=CC2C1=O)C=C(N3)C)C3=CC=CC=C3 | C17H15N3O2
reactant | sodium borohydride | 10.2 mmol, 0.4 g | [BH4-].[Na+]
reactant | water | 90 ml | O | H2O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
solvent | sodium methoxide | 5 ml | C[O-].[Na+]
product | (7R,8R,9R)-7,8-Dihydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=CC12)C=C(N3)C)C3=CC=CC=C3)O | C17H17N3O2
